USRE037029E1
A mixture of N-[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidinyl]butyl]phthalimide (6.9 g, 16.4 mmol) and hydrazine monohyrate (1.64 g, 32.8 mmol) in methanol (70 ml) was heated at reflux for 3 hours. At the end of the reaction, methanol was removed to leave a crude solid. This was dissolved in water and acidified with HCl to pH 2. The insolubles were filtered. The aqueous solution was basified with 50% N;aOH, and then extracted with dichloromethane. The dichloromethane solution was washed with water and brine, and then dried over MgSO4. The solvent was removed to a colorless oil: 4.48 g. This oil was treated with 2.5 equivalents of HCl in ethanol. The solid was collected. Recrystallization from ethanol (65 ml) and methanol (20 ml) gave 2.0 g of 1-(4-aminobutyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine dihydrochloride as white crystals, m.p.=234°-237° C.

reactant | N-[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidinyl]butyl]phthalimide | 16.4 mmol, 6.9 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C24H24FN3O3
reactant | hydrazine | 32.8 mmol, 1.64 g | NN | H4N2
reactant | HCl | Cl | ClH
reactant | HCl | 2.5 equivalents | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-aminobutyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine dihydrochloride | 2.0 g | Cl.Cl.NCCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | InChI=1S/C16H22FN3O.2ClH/c17-13-3-4-14-15(11-13)21-19-16(14)12-5-9-20(10-6-12)8-2-1-7-18;;/h3-4,11-12H,1-2,5-10,18H2;2*1H
